US05347039
700 mg of methyl 7-phenyl-5-hydroxy-3-oxo-6-heptenoate (2.82 mmol) are dissolved in 25 cm3 of methanol and then cooled to -10° C. 0.71 cm3 of titanium chloride triisopropoxide (2.82 mmol) is added. The mixture is stirred for 20 minutes at -10° C. 207.8 mg of sodium cyanoborohydride (3.1 mmol) are then added and the mixture is then stirred for 3 hours 45 minutes at a temperature between -5° and 0° C. 5 cm3 of water and 1 cm3 of concentrated hydrochloric acid are added. After evaporation of the methanol under reduced pressure, the mixture is taken up in 50 cm3 of dichloromethane. The organic phase is washed with 25 cm3 of a saturated sodium bicarbonate solution and then with 25 cm3 of water and is then dried over sodium sulphate. After filtration and concentration to dryness, the residue obtained is treated with methanol. There is thus obtained, with a yield of 55%, 460 mg of methyl 7-phenyl-3,5-dihydroxy-6-heptenoate for which the syn/anti ratio is equal to 80/20.

reactant | methyl 7-phenyl-5-hydroxy-3-oxo-6-heptenoate | 2.82 mmol, 700 mg | C1(=CC=CC=C1)C=CC(CC(CC(=O)OC)=O)O | C14H16O4
reactant | sodium cyanoborohydride | 3.1 mmol, 207.8 mg | C(#N)[BH3-].[Na+]
reactant | water | 5 cm3 | O | H2O
reactant | hydrochloric acid | 1 cm3 | Cl | ClH
solvent | methanol | 25 cm3 | CO | CH4O
catalyst | titanium chloride triisopropoxide | 2.82 mmol, 0.71 cm3 | CC([O-])C.CC([O-])C.CC([O-])C.[Cl-].[Ti+4]
product | methyl 7-phenyl-3,5-dihydroxy-6-heptenoate | 460 mg, yield of 55% | C1(=CC=CC=C1)C=CC(CC(CC(=O)OC)O)O | C14H18O4
